US04820729
C. L-Alanyl-N-Benzyl-Glycine
A solution of N-carbobenzyloxy-L-alanyl-N-benzyl glycine (6.0 g) and 10% palladium on carbon (2.0 g) in 200 ml ethanol was hydrogenated at 50 psi for 4 hours and filtered. Concentration of the volatiles in vacuo provided a residue which was dissolved in H2O and filtered. The aqueous solution was acidified with 25% aqueous HBr until pH 1 was obtained. The solution was lyophilized. The crystalline product was recrystallized from ether-acetonitrile (m.p. 84°-85° C.).

reactant | N-carbobenzyloxy-L-alanyl-N-benzyl glycine | 6.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)CC1=CC=CC=C1 | C20H22N2O5
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
product | L-Alanyl-N-Benzyl-Glycine | N[C@@H](C)C(=O)N(CC(=O)O)CC1=CC=CC=C1 | C12H16N2O3
